US07592456B2
Step 2: 4-Bromo-1H-benzimidazole
A solution of 1,2-diamino-3-bromobenzene (2.00 g, 10.7 mmol) in formic acid (10 mL) was stirred at 100° C. for 1 hour. The pH of the mixture was adjusted to 14 by the addition of 4 M sodium hydroxide solution, precipitating the product as a solid. This was separated by filtration, washed with water and air-dried affording the product as an off-white solid. A further crop of equally pure material precipitated from the filtrate upon standing at room temperature for a few days. Total yield=1.98 g, 94%. 1H NMR (500 MHz, d6-DMSO): δ 12.83 (1H, s), 8.30 (1H, s), 7.58 (1H, d, J=7.9 Hz), 7.41 (1H, d, J=7.1 Hz), 7.14 (1H, t, J=7.8 Hz); m/z (ES+) 197, 199 [MH+].

reactant | 1,2-diamino-3-bromobenzene | 10.7 mmol, 2.00 g | NC1=C(C(=CC=C1)Br)N | C6H7BrN2
reactant | sodium hydroxide | 4 M | [OH-].[Na+]
reactant | formic acid | 10 mL | C(=O)O | CH2O2
product | 4-Bromo-1H-benzimidazole | BrC1=CC=CC=2NC=NC21 | C7H5BrN2
